US04897495
7a-Cyano-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine
A mixed solution of 2-amino-2-methylpropanenitrile (41.4 g, 492 mmol) and 1,7-dichloro-4-heptanone (30.0 g, 164 mmol) in 220 ml of 16% NH3 /MeOH solution was stirred for 24 hours at 20° C. The resulting reaction mixture was concentrated in vacuo to remove MeOH therefrom, added 0.1N NaOH to the residue, which was extracted with methylene chloride, and the extract was dried over anhydrous sodium sulfate, concentrated, and distilled in vacuo to afford 18.1 g of the desired compound (Yield: 82%).

reactant | 2-amino-2-methylpropanenitrile | 492 mmol, 41.4 g | NC(C#N)(C)C | C4H8N2
reactant | 1,7-dichloro-4-heptanone | 164 mmol, 30.0 g | ClCCCC(CCCCl)=O | C7H12Cl2O
reactant | NH3 MeOH | 220 ml | N.CO
product | 7a-Cyano-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine | 18.1 g, Yield: 82% | C(#N)C12CCCN2CCC1 | C8H12N2
